US07932262B2
Step 3. Preparation of tert-butyl 4-(5-bromo-2-(3-chloro-4-morpholinophenylamino) quinazolin-8-yloxy)piperidine-1-carboxylate
A mixture of tert-butyl 4-(5-bromo-2-chloroquinazolin-8-yloxy)piperidine-1-carboxylate (1 eq) and N-(4-amino-2-chlorophenyl) morpholine (1 eq) in isopropanol was heated in a sealed tube at 110° C. for overnight. The reaction mixture was concentrated and proceeds for next step. ES/MS m/z 618.0 (MH+).

reactant | tert-butyl 4-(5-bromo-2-chloroquinazolin-8-yloxy)piperidine-1-carboxylate | 1 eq | BrC1=C2C=NC(=NC2=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)Cl | C18H21BrClN3O3
reactant | N-(4-amino-2-chlorophenyl) morpholine | 1 eq | NC1=CC(=C(C=C1)N1CCOCC1)Cl | C10H13ClN2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | tert-butyl 4-(5-bromo-2-(3-chloro-4-morpholinophenylamino) quinazolin-8-yloxy)piperidine-1-carboxylate | BrC1=C2C=NC(=NC2=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)NC1=CC(=C(C=C1)N1CCOCC1)Cl | C28H33BrClN5O4
